US05173484
a) 1-Benzyl-3-hydroxy-3-methoxymethylpyrrolidine
26.8 g (0.14 mol) of 5-benzyl-1-oxa-5-azaspiro[2,4]heptane are heated overnight under reflux with 2.6 ml (14 mmol) of 30% strength sodium methoxide solution in 200 ml of absolute methanol. The product is concentrated and distilled.

reactant | 5-benzyl-1-oxa-5-azaspiro[2,4]heptane | 0.14 mol, 26.8 g | C(C1=CC=CC=C1)N1CC2(CO2)CC1 | C12H15NO
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 1-Benzyl-3-hydroxy-3-methoxymethylpyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)(COC)O | C13H19NO2
